US07728030B2
3-(5-iodo-1H-indazol-1-yl)benzoic acid (144c)
3-(2-(2-fluoro-5-iodobenzylidene)hydrazinyl)benzoic acid (3.47 g, 9 mmol) and potassium tert. butoxide (2.3 g, 20.5 mmol) was stirred under argon atmosphere in NMP (45 mL) at 150° C. for 30 min. After cooling, the mixture was diluted with water (100 mL), acidified with aqueous HCl (1.7 M) and extracted trice with EtOAc. The combined organic phases were washed twice with water and then with brine. Evaporation of the organic phase afforded crude title compound (3.52 g, quant.) as a light brown, amorphous, gummy solid.

reactant | 3-(2-(2-fluoro-5-iodobenzylidene)hydrazinyl)benzoic acid | 9 mmol, 3.47 g | FC1=C(C=NNC=2C=C(C(=O)O)C=CC2)C=C(C=C1)I | C14H10FIN2O2
reactant | potassium tert. butoxide | 20.5 mmol, 2.3 g | CC(C)([O-])C.[K+]
reactant | HCl | 1.7 M | Cl | ClH
solvent | NMP | 45 mL | CN1CCCC1=O | C5H9NO
solvent | water | 100 mL | O | H2O
product | 3-(5-iodo-1H-indazol-1-yl)benzoic acid | 3.52 g | IC=1C=C2C=NN(C2=CC1)C=1C=C(C(=O)O)C=CC1 | C14H9IN2O2
